US08372867B2
A solution of 2,2,2-trifluoro-1-[3-(trifluoromethyl)-phenyl]ethanone (3.0 g), 4-methylacetophenone (1.1 g) and lithium hydride (0.13 g) in tetrahydrofuran (30 mL) was stirred for 3 hours at 60° C. After the reaction solution was diluted with t-butylmethylether, the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to yield 4,4,4-trifluoro-3-hydroxy-1-(4-methylphenyl)-3-[3-(trifluoromethyl)phenyl]butan-1-one (3.0 g).

reactant | 2,2,2-trifluoro-1-[3-(trifluoromethyl)-phenyl]ethanone | 3.0 g | FC(C(=O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C9H4F6O
reactant | 4-methylacetophenone | 1.1 g | CC1=CC=C(C=C1)C(=O)C | C9H10O
reactant | lithium hydride | 0.13 g | [H-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | 4,4,4-trifluoro-3-hydroxy-1-(4-methylphenyl)-3-[3-(trifluoromethyl)phenyl]butan-1-one | 3.0 g | FC(C(CC(=O)C1=CC=C(C=C1)C)(C1=CC(=CC=C1)C(F)(F)F)O)(F)F | C18H14F6O2
